US07816405B2
(2S)-3-(3-Hydroxyphenyl)-2-isopropoxypropionic acid tert-butylamine salt
(2S)-3-(3-Hydroxyphenyl)-2-isopropoxypropionic acid (7.6 kg, 34 mol) was dissolved in 1,2-dimethoxyethane (131 L), then tert-butylamine (3.9 L, 37 mol) was added dropwise to the reaction mixture at 20° C. over a period of 15 minutes. The reaction mixture was stirred at 75° C. for 2 hours and cooled, followed by separating the generated crystal by filtration. The crystals were subjected to vacuum drying at 40° C. for 23 hours to obtain 9.04 kg of the title compound (yield: 90%).

reactant | (2S)-3-(3-Hydroxyphenyl)-2-isopropoxypropionic acid | 34 mol, 7.6 kg | OC=1C=C(C=CC1)C[C@@H](C(=O)O)OC(C)C | C12H16O4
reactant | tert-butylamine | 37 mol, 3.9 L | C(C)(C)(C)N | C4H11N
solvent | 1,2-dimethoxyethane | 131 L | COCCOC | C4H10O2
product | (2S)-3-(3-Hydroxyphenyl)-2-isopropoxypropionic acid tert-butylamine salt | 9.04 kg, yield: 90% | C(C)(C)(C)N.OC=1C=C(C=CC1)C[C@@H](C(=O)O)OC(C)C | InChI=1S/C12H16O4.C4H11N/c1-8(2)16-11(12(14)15)7-9-4-3-5-10(13)6-9;1-4(2,3)5/h3-6,8,11,13H,7H2,1-2H3,(H,14,15);5H2,1-3H3/t11-;/m0./s1
